US07153854B2
To a solution of ethyl 2-benzyl-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate (730 mg) in tetrahydrofuran (10 ml) was added N-chlorosuccinimide (260 mg) and the mixture was stirred at 20° C. for 2 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with aqueous sodium thiosulfate, water and brine, dried over magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatograpy eluting with a mixture of toluene and ethyl acetate (10:1) to give ethyl 2-benzyl-7-chloro-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate (285 mg) as an yellow oil.

reactant | ethyl 2-benzyl-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate | 730 mg | C(C1=CC=CC=C1)C=1C(=C(C=2N(N1)C=CC2)C2=CC=C(C=C2)F)C(=O)OCC | C23H19FN2O2
reactant | N-chlorosuccinimide | 260 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 2-benzyl-7-chloro-4-(4-fluorophenyl)pyrrolo[1,2-b]pyridazine-3-carboxylate | 285 mg | C(C1=CC=CC=C1)C=1C(=C(C=2N(N1)C(=CC2)Cl)C2=CC=C(C=C2)F)C(=O)OCC | C23H18ClFN2O2
